US04939290
To a 10 ml resealable pressure reaction flask equipped with a magnetic stirrer and teflon septum cap was charged a solution of 1.0 g (5.19 mmol) 2-chloro-4,5-difluorobenzoic acid, 792 μl (11.43 mmol) cyclopropylamine, 800 mg (4.15 mmol) copper(I) iodide and 630 μl (7.79 mmol) pyridine in 8.0 ml of N,N-dimethylacetamide. The flask was sealed and was heated to 70° C. during stirring for a period of 16 hours. The reaction mixture was allowed to cool to room temperature and was then added to 100 ml of water. The suspension was adjusted to pH 13 with sodium hydroxide solution and was stirred for 15 minutes at room temperature. The suspension was filtered and the filtrate was adjusted to pH 4.5 with concentrated aqueous HCl. Filtration of the resulting slurry provided 451 mg (41%) of 2-cyclopropylamino-4,5-difluorobenzoic acid; m.p.: 175°-176° C.

reactant | 2-chloro-4,5-difluorobenzoic acid | 5.19 mmol, 1.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | cyclopropylamine | 11.43 mmol, 792 μl | C1(CC1)N | C3H7N
reactant | pyridine | 7.79 mmol, 630 μl | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 8.0 ml | CN(C(C)=O)C | C4H9NO
catalyst | copper(I) iodide | 4.15 mmol, 800 mg | [Cu]I
solvent | water | 100 ml | O | H2O
product | 2-cyclopropylamino-4,5-difluorobenzoic acid | 451 mg, 41% | C1(CC1)NC1=C(C(=O)O)C=C(C(=C1)F)F | C10H9F2NO2
